* 4-pole crystal ladder, butterworth 0.1 dB, B=540.0 Hz, Monte Carlo 2 runs
* nominal crystal fs=9000000.0 Hz Cm=20.000 fF Rs=15.0 ohm C0=4.50 pF Lm=15.6360 mH Qu=58946
* design k=[0.8409, 0.5412, 0.8409] q1=0.7654 qn=0.7654 Qend_loaded=12756 R1=54.32 Rn=54.32
* Ck=[396.4, 615.92, 396.4] pF  Ct=[615.92, None, None, 615.92] pF  f_mesh=9000373.2 Hz
.param fs0=9000000 cm0=2e-14 c00=4.5e-12
.param tolf=0 truncf=0
.param cmsig=0 cmtr=0.1
.param rsmin=15 rsmax=15 c0min=4.5e-12 c0max=4.5e-12
.param captol=0 restol=0
.param ef1={flat(tolf)}
.param ec1={limit(gauss(cmsig),-cmtr,cmtr)}
.param cm1={cm0*(1+ec1)}
.param fs1={fs0*(1+ef1)}
.param lm1={1/(pow(2*pi*fs1,2)*cm1)}
.param rs1={rsmin+(rsmax-rsmin)*(0.5+flat(0.5))}
.param c0_1={c0min+(c0max-c0min)*(0.5+flat(0.5))}
.param ef2={flat(tolf)}
.param ec2={limit(gauss(cmsig),-cmtr,cmtr)}
.param cm2={cm0*(1+ec2)}
.param fs2={fs0*(1+ef2)}
.param lm2={1/(pow(2*pi*fs2,2)*cm2)}
.param rs2={rsmin+(rsmax-rsmin)*(0.5+flat(0.5))}
.param c0_2={c0min+(c0max-c0min)*(0.5+flat(0.5))}
.param ef3={flat(tolf)}
.param ec3={limit(gauss(cmsig),-cmtr,cmtr)}
.param cm3={cm0*(1+ec3)}
.param fs3={fs0*(1+ef3)}
.param lm3={1/(pow(2*pi*fs3,2)*cm3)}
.param rs3={rsmin+(rsmax-rsmin)*(0.5+flat(0.5))}
.param c0_3={c0min+(c0max-c0min)*(0.5+flat(0.5))}
.param ef4={flat(tolf)}
.param ec4={limit(gauss(cmsig),-cmtr,cmtr)}
.param cm4={cm0*(1+ec4)}
.param fs4={fs0*(1+ef4)}
.param lm4={1/(pow(2*pi*fs4,2)*cm4)}
.param rs4={rsmin+(rsmax-rsmin)*(0.5+flat(0.5))}
.param c0_4={c0min+(c0max-c0min)*(0.5+flat(0.5))}
.param ck1={3.96402372e-10*(1+flat(captol))}
.param ck2={6.15919688e-10*(1+flat(captol))}
.param ck3={3.96402372e-10*(1+flat(captol))}
.param ct1={6.15919688e-10*(1+flat(captol))}
.param ct4={6.15919688e-10*(1+flat(captol))}
.param r1={54.3153181*(1+flat(restol))} rn={54.3153181*(1+flat(restol))}
V1 in 0 AC 1
R1 in n1 {r1}
Ct1 n1 t1 {ct1}
L1 t1 m1a {lm1}
Cm1 m1a m1b {cm1}
Rs1 m1b n2 {rs1}
C0_1 t1 n2 {c0_1}
Ck1 n2 0 {ck1}
L2 n2 m2a {lm2}
Cm2 m2a m2b {cm2}
Rs2 m2b n3 {rs2}
C0_2 n2 n3 {c0_2}
Ck2 n3 0 {ck2}
L3 n3 m3a {lm3}
Cm3 m3a m3b {cm3}
Rs3 m3b n4 {rs3}
C0_3 n3 n4 {c0_3}
Ck3 n4 0 {ck3}
Ct4 n4 t4 {ct4}
L4 t4 m4a {lm4}
Cm4 m4a m4b {cm4}
Rs4 m4b out {rs4}
C0_4 t4 out {c0_4}
Rn out 0 {rn}
.ac lin 6001 8994373.16 9006373.16
.step param run 1 2 1
.save V(out) V(in)
.end
